US06034239
N-[2-(4-allyl-1-formyl-2,3-dihydro-5-hydroxyindol-3-yl)ethyl]propionamide
Formic acid (3.3 g, 71.7 mmol) and acetic anhydride (7.32g, 71.7 mmol) was mixed under ice-cooling and the mixture was stirred for 10 minutes. To the mixture was added a solution of N-[2-(4-allyl-2,3-dihydro-5-hydroxyindol-3-yl)ethyl]propionamide in formic acid (10 mL). The mixture was stirred for 1 hour under ice-cooling and poured into water. The product was extracted with 10% methanol/ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, brine and water, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=9:1) to afford the title compound (yield 2.0 g, 46% from N-[2-(4-allyl-5-hydroxyindol-3-yl)ethyl]propionamide).

reactant | acetic anhydride | 71.7 mmol, 7.32g | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-[2-(4-allyl-2,3-dihydro-5-hydroxyindol-3-yl)ethyl]propionamide | C(C=C)C1=C2C(CNC2=CC=C1O)CCNC(CC)=O | C16H22N2O2
reactant | water | O | H2O
solvent | formic acid | 10 mL | C(=O)O | CH2O2
solvent | Formic acid | 71.7 mmol, 3.3 g | C(=O)O | CH2O2
product | N-[2-(4-allyl-1-formyl-2,3-dihydro-5-hydroxyindol-3-yl)ethyl]propionamide | yield 2.0 g, 46% | C(C=C)C1=C2C(CN(C2=CC=C1O)C=O)CCNC(CC)=O | C17H22N2O3
